US07851463B2
135.4 4-(1-Benzyl-pyrrolidin-3-yl)-2-methoxy-phenylamine
1-Benzyl-3-(3-methoxy-4-nitro-phenyl)-pyrrolidine (350 mg, 1.12 mmol) was dissolved in methanol (20 ml), tin dichloride (1.912 g, 10.08 mmol) was added, and the reaction mixture stirred at reflux for 2 h. The methanol was evaporated, 1 N sodium hydroxide (50 ml) and ethyl acetate were added and stirring continued. The tin salts were filtered off, the organic phase was separated, dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure to yield an oil (220 mg, 70%).

reactant | 1-Benzyl-3-(3-methoxy-4-nitro-phenyl)-pyrrolidine | 1.12 mmol, 350 mg | C(C1=CC=CC=C1)N1CC(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C18H20N2O3
reactant | tin dichloride | 10.08 mmol, 1.912 g | [Sn](Cl)Cl
solvent | methanol | 20 ml | CO | CH4O
product | 4-(1-Benzyl-pyrrolidin-3-yl)-2-methoxy-phenylamine | 220 mg, 70% | C(C1=CC=CC=C1)N1CC(CC1)C1=CC(=C(C=C1)N)OC | C18H22N2O
